US08232427B2
Step 3: Benzyl N-[3-(dimethylamino)propyl]-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate
To a solution of benzyl N-[(3-methoxyphenyl)sulfonyl]-3-methyl-N-{3-[(methylsulfonyl)oxy]propyl}-D-valinate (2.00 g, 3.79 mmol) in DCM (15 mL), dimethylamine in THF (2M, 9.5 mmol, 19.0 mmol) and DIPEA (1.99 mL, 11.4 mmol) are added, and the reaction mixture is allowed to stir at rt for 18 h. Additional 3.0 mL of dimethylamine in THF (2M) is added to the reaction mixture and is allowed to stir for additional 3 d. The reaction was approximately 50% complete. The reaction mixture is concentrated in vacuo and is purified by silica gel chromatography eluting with a gradient of 5-100% EtOAc/heptane to obtain the desired intermediate (500 mg, 28% yield). Mass spectrum (477.5; M+1).

reactant | benzyl N-[(3-methoxyphenyl)sulfonyl]-3-methyl-N-{3-[(methylsulfonyl)oxy]propyl}-D-valinate | 3.79 mmol, 2.00 g | COC=1C=C(C=CC1)S(=O)(=O)N([C@H](C(C)(C)C)C(=O)OCC1=CC=CC=C1)CCCOS(=O)(=O)C | C24H33NO8S2
reactant | DIPEA | 11.4 mmol, 1.99 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylamine | CNC | C2H7N
solvent | THF | 2M | C1CCOC1 | C4H8O
solvent | dimethylamine | 3.0 mL | CNC | C2H7N
solvent | THF | 9.5 mmol, 2M | C1CCOC1 | C4H8O
product | Benzyl N-[3-(dimethylamino)propyl]-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate | 500 mg, 28% yield | CN(CCCN([C@H](C(C)(C)C)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C25H36N2O5S
